US09085540B2
To a mixture of tert-butyl [(1S,2R)-2-aminocyclohexyl]carbamate (500 mg) and ethanol (10 mL) was added 1H-benzotriazol-1-yl methanol (350 mg), followed by stirring at room temperature for 7 hours. Sodium borohydride (180 mg) was added thereto under ice-cooling, followed by stirring at room temperature for 15 hours. To the reactant were added ethyl acetate and a saturated aqueous sodium hydrogen carbonate solution, followed by liquid separation. The organic phase was dried over anhydrous magnesium sulfate and then the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (eluent; chloroform:methanol:28% aqueous ammonia=1:0:0-190:9:1) to obtain tert-butyl [(1S,2R)-2-(methylamino)cyclohexyl]carbamate (174 mg) as a pale yellow oily material.

reactant | tert-butyl [(1S,2R)-2-aminocyclohexyl]carbamate | 500 mg | N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | 1H-benzotriazol-1-yl methanol | 350 mg | N1(N=NC2=C1C=CC=C2)CO | C7H7N3O
reactant | Sodium borohydride | 180 mg | [BH4-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl [(1S,2R)-2-(methylamino)cyclohexyl]carbamate | 174 mg | CN[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C12H24N2O2
